US07220862B2
3-Methyl-4,5-dinitrobenzaldehyde
In a flame-dried flask, manganese (IV) oxide (36.0 g, 414 mmol) was azeotropically dried with toluene. Then, a solution of (3-methyl-4,5-dinitrophenyl)methanol (3.2 g, 15 mmol) in chloroform (100 mL) was transferred to the flask containing the manganese dioxide. The reaction mixture was heated at 50° C. with stirring for 3 h. Upon completion of the reaction, the reaction mixture was filtered through a pad of Celite® to remove manganese dioxide and the Celite was washed with chloroform several time. The filtrate was evaporated to give the title compound (1.4 g, 44% yield). 1H-NMR (CDCl3, 300 MHz) δ 10.09 (s, 1H), 8.51 (s, 1H), 8.16 (s, 1H), 2.51 (s, 3H).

reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | (3-methyl-4,5-dinitrophenyl)methanol | 15 mmol, 3.2 g | CC=1C=C(C=C(C1[N+](=O)[O-])[N+](=O)[O-])CO | C8H8N2O5
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese (IV) oxide | 414 mmol, 36.0 g | [O-2].[Mn+4].[O-2]
catalyst | manganese dioxide | [O-2].[O-2].[Mn+4]
product | 3-Methyl-4,5-dinitrobenzaldehyde | 1.4 g, 44% yield | CC=1C=C(C=O)C=C(C1[N+](=O)[O-])[N+](=O)[O-] | C8H6N2O5
